US06245746B1
A solution of Nα-benzyl-Nδ-Boc-Nα-methylornithine (300 mg), diisopropylethylamine (326 μl), and anhydrous tetrahydrofuran (4 ml) was treated with PyBop (585 mg) at 0° C. for 10 min., followed by the addition of a solution of 3-phenylpropylamine (147 μl) in anhydrous tetrahydrofuran (2 ml). The resulting solution was stirred at ambient temperature for 4 hrs. The reaction was diluted with ethyl acetate and washed with water. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The product was purified by chromatography over silica gel (hexane/ethyl acetate) to give Nα-benzyl-Nδ-Boc-Nα-methylornithine 3-phenylpropylamide (370 mg): 1H NMR (400 MHz, CDCl3) δ1.43 (s, 9H), 1.6-1.9 (m, 6H), 2.2 (s, 3H), 2.65 (t, J=6.2 Hz, 2H), 3.0-3.4 (m, 5H), 3.64 (s, 2H), 4.8 (s, 1H), and 7.1-7.5 (m, 10H).

reactant | Nα-benzyl-Nδ-Boc-Nα-methylornithine | 300 mg | C(C1=CC=CC=C1)N([C@@H](CCCNC(=O)OC(C)(C)C)C(=O)O)C | C18H28N2O4
reactant | diisopropylethylamine | 326 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBop | 585 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 3-phenylpropylamine | 147 μl | C1(=CC=CC=C1)CCCN | C9H13N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | Nα-benzyl-Nδ-Boc-Nα-methylornithine 3-phenylpropylamide | 370 mg | C1(=CC=CC=C1)CCCNC([C@@H](N(C)CC1=CC=CC=C1)CCCNC(=O)OC(C)(C)C)=O | C27H39N3O3
